US09079866B2
5-{2-[6-(2-Aminopyrimidin-5-yl)-5-fluoropyridin-3-yl]phenyl}pyrimidin-2-amine
The title compound was prepared in a manner similar to that described in Example 427 using (6-(2-aminopyrimidin-5-yl)-5-fluoropyridin-3-yl)boronic acid and 5-(2-chlorophenyl)pyrimidin-2-amine. MS (ESI): mass calcd. for C19H14FN7, 359.13; m/z found, 360.1 [M+H]+. 1H NMR (500 MHz, CD3OD) δ 8.93 (s, 2H), 8.31-8.28 (m, 1H), 8.19 (s, 2H), 7.64 (dd, J=12.0, 1.9, 1H), 7.59-7.51 (m, 4H).

reactant | (6-(2-aminopyrimidin-5-yl)-5-fluoropyridin-3-yl)boronic acid | NC1=NC=C(C=N1)C1=C(C=C(C=N1)B(O)O)F | C9H8BFN4O2
reactant | 5-(2-chlorophenyl)pyrimidin-2-amine | ClC1=C(C=CC=C1)C=1C=NC(=NC1)N | C10H8ClN3
product | 5-{2-[6-(2-Aminopyrimidin-5-yl)-5-fluoropyridin-3-yl]phenyl}pyrimidin-2-amine | NC1=NC=C(C=N1)C1=C(C=C(C=N1)C1=C(C=CC=C1)C=1C=NC(=NC1)N)F | C19H14FN7
